US05852011
Methyl 4-[N,N-bis(2-hydroxyethyl)amino]phenylacetate
Methyl 4-aminophenylacetate (5.5 g; 33 mmol) was reacted with 45 g (341 mmol, 10 equivalents) of ethylene oxide in 33 ml of 30% acetic acid, followed by post treatments. The crude product so obtained was purified by chromatography on a silica gel column (n-hexane/ethyl acetate=1/2→1/4) and washed with n-hexane, whereby 6.07 g (24.0 mmol) of the title compound were obtained as white crystals (yield: 72.6%).

reactant | Methyl 4-aminophenylacetate | 33 mmol, 5.5 g | NC1=CC=C(C=C1)CC(=O)OC | C9H11NO2
reactant | ethylene oxide | 341 mmol, 45 g, 10 equivalents | C1CO1 | C2H4O
reactant | acetic acid | 33 ml | C(C)(=O)O | C2H4O2
product | Methyl 4-[N,N-bis(2-hydroxyethyl)amino]phenylacetate | 24.0 mmol, 6.07 g | OCCN(CCO)C1=CC=C(C=C1)CC(=O)OC | C13H19NO4
